US05753679
1.145 g (0.0027 mol) of 1-benzyl-piperidin-4-yl 4-fluoro-2-trifluoroacetamido-benzoate were suspended in 25 ml of 1N aqueous piperidine in an ultrasound bath for 1/2 hr. and subsequently stirred at room temperature for 48 hrs. The suspension was treated with semi-saturated aqueous sodium chloride solution and extracted with ethyl acetate. The organic phases were dried over sodium sulfate and concentrated and the residue was chromatographed on silica gel with ethyl acetate/hexane (1:3). 0.82 g (92%) of 1-benzyl-piperidin-4-yl 2-amino-4-fluoro-benzoate was obtained as a colorless oil. MS:=329 (C19H22FN2O2 +).

reactant | 1-benzyl-piperidin-4-yl 4-fluoro-2-trifluoroacetamido-benzoate | 0.0027 mol, 1.145 g | FC1=CC(=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=C1)NC(C(F)(F)F)=O | C21H20F4N2O3
reactant | sodium chloride | [Cl-].[Na+]
solvent | piperidine | 1N, 25 ml | N1CCCCC1 | C5H11N
product | 1-benzyl-piperidin-4-yl 2-amino-4-fluoro-benzoate | 0.82 g, 92% | NC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)F | C19H21FN2O2
